US04550105
To a solution of 0.127 g of DMF in 5 ml of methylene chloride is added 0.104 ml of diphosgene at -10° C. The mixture is stirred for 30 minutes at room temperature, followed by addition of a solution of 15 ml of methylene chloride containing 0.483 g of 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid and 0.176 g of triethylamine at -70° C. The mixture is stirred for two hours at -25° C., then cooled to -70° C., followed by addition of 0.352 g of triethylamine, 0.40 g of tosyl salt of (3S,4S)-3-amino-4-azido-2-oxoazetidine and 2 ml of propylene oxide. The temperature of the mixture is raised up to room temperature in the course of one hour while stirring, followed by ice-cooling for one hour. The crystals separated out are collected by filtration to yield 0.383 g of (3S,4S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine.

reactant | diphosgene | 0.104 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C8H8ClN3O4S
reactant | (3S,4S)-3-amino-4-azido-2-oxoazetidine | N[C@@H]1C(N[C@H]1N=[N+]=[N-])=O | C3H5N5O
reactant | propylene oxide | 2 ml | C1C(C)O1 | C3H6O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml, 0.483 g | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.352 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.176 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.127 g | CN(C)C=O | C3H7NO
product | (3S,4S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine | 0.383 g | N(=[N+]=[N-])[C@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C11H11ClN8O4S
